US08685986B2
26-(b) (6-{(4-Fluorobenzenesulfonyl)[4-(pyrazol-1-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid
Reaction and post-treatment were carried out in the same manner as in Example 21-(b) except for using tert-butyl[tert-butoxycarbonyl(6-{(4-fluorobenzenesulfonyl)[4-(pyrazol-1-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate (794 mg, 1.22 mmol) obtained in Example 26-(a) in place of tert-butyl[tert-butoxycarbonyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]-acetate to afford the title compound (517 mg) as a white solid. (Yield: 86%)

reactant | tert-butyl[tert-butoxycarbonyl(6-{(4-fluorobenzenesulfonyl)[4-(pyrazol-1-yl)benzyl]aminomethyl}pyridin-2-yl)amino]acetate | 1.22 mmol, 794 mg | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NCC1=CC=C(C=C1)N1N=CC=C1)S(=O)(=O)C1=CC=C(C=C1)F)C(=O)OC(C)(C)C)=O | C33H38FN5O6S
reactant | tert-butyl[tert-butoxycarbonyl(6-{[4-(pyrazol-1-yl)benzyl](pyridin-2-ylsulfonyl)aminomethyl}pyridin-2-yl)amino]-acetate | C(C)(C)(C)OC(CN(C1=NC(=CC=C1)C(NS(=O)(=O)C1=NC=CC=C1)CC1=CC=C(C=C1)N1N=CC=C1)C(=O)OC(C)(C)C)=O | C32H38N6O6S
product | (6-{(4-Fluorobenzenesulfonyl)[4-(pyrazol-1-yl)benzyl]aminomethyl}pyridin-2-ylamino)acetic Acid | 517 mg, Yield: 86% | FC1=CC=C(C=C1)S(=O)(=O)C(C1=CC=CC(=N1)NCC(=O)O)NCC1=CC=C(C=C1)N1N=CC=C1 | C24H22FN5O4S
